US05863947
Phenylethylmercaptan (2.14 ml, 16 mmol) was added to a stirred suspension of 4-cyano-2-fluorobenzaldehyde (2.23 g, 15 mmol) and potassium carbonate (2.21 g, 16 mmol) in dimethylformamide (10 ml) at room temperature under nitrogen atmosphere. The mixture was heated to 75° C. for 1 hour, then cooled and diluted with water (15 ml). A yellow solid precipitated and was filtered, washed with water and then crystallised from cyclohexane (250 ml) to give pale needles of 4-cyano-2-(2-phenylethylthio)benzaldehyde, m.p. 89° C.

reactant | Phenylethylmercaptan | 16 mmol, 2.14 ml | C1(=CC=CC=C1)CCS | C8H10S
reactant | 4-cyano-2-fluorobenzaldehyde | 15 mmol, 2.23 g | C(#N)C1=CC(=C(C=O)C=C1)F | C8H4FNO
reactant | potassium carbonate | 16 mmol, 2.21 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | 15 ml | O | H2O
product | 4-cyano-2-(2-phenylethylthio)benzaldehyde | C(#N)C1=CC(=C(C=O)C=C1)SCCC1=CC=CC=C1 | C16H13NOS
